### PR TITLE
feat(Wikipedia): Jacobson conjecture

### LINKED ISSUE #1799: Jacobsons Conjecture
### What is the conjecture

For a two-sided Noetherian ring $R$ with Jacobson radical $J(R)$, the intersection of all powers of $J(R)$ equals zero: $$\bigcap_{n=1}^{\infty} J(R)^n = \{0\}$$

**Sources:**
- https://en.wikipedia.org/wiki/Jacobson's_conjecture, https://www.sciencedirect.com/science/article/pii/0021869374901951, https://www.cambridge.org/core/journals/glasgow-mathematical-journal/article/note-on-jacobsons-conjecture-for-right-noetherian-rings/9F1B89740F802EB8BC513EEAA6D0E82A

### Prerequisites needed

**Formalizability Rating:** 3/5 (as of 2026-01-20)

Mathlib has foundational ring theory and Noetherian ring definitions, but Jacobson's conjecture requires significant infrastructure: (1) Jacobson radical definition and properties, (2) theory of powers of ideals and their intersections, (3) spectral analysis of Noetherian rings. The conjecture has been proven for commutative Noetherian rings, suggesting the commutative case could potentially be formalized first with less additional infrastructure, while the general noncommutative case would require more theory development.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-16
* ams-13

### Choose either option

- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

Created by AI, reviewed by me.

### PR DESCRIPTION
**Pull request by felixpernegger**
Formalizes Jacobson’s conjecture and its disproved right-Noetherian version.

Adds right ideals as submodules of the right regular module, together with proved API for right multiplication, commutative conversion to ideals, and maximal right ideals. Adds right Noetherian rings to FormalConjecturesForMathlib.

Checked with lake --wfail build FormalConjecturesForMathlib and lake --wfail build FormalConjectures.Wikipedia.Jacobson.

Closes #1799.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Jacobson.lean [hunk 1]
```diff
@@ -0,0 +1,172 @@
...
+-/
+
+universe u
+
+namespace Jacobson
+
+/-- A right ideal in a semiring $R$ is an additive submonoid $s$ such that
+$a * b \in s$ whenever $a \in s$. If $R$ is a ring, then $s$ is an additive subgroup. -/
+structure RightIdeal (R : Type u) [Semiring R] : Type u extends AddSubmonoid R where
+  mem_mul : ∀ {a : R} (b : R), a ∈ carrier → a * b ∈ carrier
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Jacobson.lean]: As an alternate definition (which I suspect will give you more stuff for free), you could define a right ideal as an ideal of the opposite ring of `R`.

Comment (felixpernegger) [reply FormalConjectures/Wikipedia/Jacobson.lean]: The issue with this (and I suppose the reason why its not in mathlib), is that if you do that, your elements of the ideal annoyingly have type $R^{mop}$ instead of $R$

Comment (YaelDillies) [reply FormalConjectures/Wikipedia/Jacobson.lean]: What about `Submodule R\mop R`?

File: FormalConjectures/Wikipedia/Jacobson.lean [hunk 2]
```diff
@@ -0,0 +1,172 @@
...
+/-- For commutative rings this is the case as a consequence of Krull's intersection theorem. -/
+@[category graduate, AMS 13 16]
+theorem jacobson_conjecture_of_comm_ring (R : Type u) [CommRing R] [IsNoetherianRing R] :
+    JacobsonConjectureFor R := by
+  sorry
+
+/-- Originally, on page 200 of [Ja1956], Jacobson asked if the Jacobson conjecture holds for all left
+Noetherian rings. However in [He1965] Herstein constructs a left Noetherian ring for which the
+Jacobson conjecture does not hold. -/
+@[category research open, AMS 16]
```
Comment (franzhusch) [inline FormalConjectures/Wikipedia/Jacobson.lean]: This should be research solved?

**Comment by mo271** [comment]
@felixpernegger are you planning to continue to work on this?

**Comment by Paul-Lez** [comment]
I picked this up and pushed the requested fixes. The branch is also updated to the current main branch.

File: FormalConjectures/Wikipedia/Jacobson.lean (hunk 1 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Jacobson.lean]: Done — RightIdeal R is now defined as Submodule Rᵐᵒᵖ R in FormalConjecturesForMathlib/RingTheory/Ideal/Defs.lean.

File: FormalConjectures/Wikipedia/Jacobson.lean (hunk 2 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Jacobson.lean]: Done — the disproved right-Noetherian version is now marked research solved. I also corrected the statement from left Noetherian to right Noetherian to match Jacobson’s original question and Herstein’s counterexample.

File: FormalConjectures/Wikipedia/Jacobson.lean [hunk 3]
```diff
@@ -0,0 +1,71 @@
...
+open Ring
+
+universe u
+
+namespace Jacobson
+
+/-- The Jacobson conjecture for a ring $R$: the infimum of the powers of the Jacobson radical
+$J$ is the zero ideal. -/
+def JacobsonConjectureFor (R : Type u) [Ring R] : Prop :=
+  (⨅ n : ℕ, (jacobson R) ^ n) = 0
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/Jacobson.lean]: I don't think you need brackets as of ths year
```suggestion
  ⨅ n : ℕ, jacobson R ^ n = 0
```

File: FormalConjecturesForMathlib/RingTheory/Ideal/Basic.lean [hunk 4]
```diff
@@ -40,8 +40,7 @@ theorem ext {I J : RightIdeal R} (h : ∀ x, x ∈ I ↔ x ∈ J) : I = J :=
 
 /-- A right ideal is closed under multiplication on the right. -/
 theorem mul_mem_right (I : RightIdeal R) {a : R} (b : R) (ha : a ∈ I) : a * b ∈ I := by
-  change (MulOpposite.op b) • a ∈ I
-  exact I.smul_mem _ ha
+  exact I.smul_mem (MulOpposite.op b) ha
```
Comment (YaelDillies) [inline FormalConjecturesForMathlib/RingTheory/Ideal/Basic.lean]: by exact?

**Review by Paul-Lez — APPROVED** [review]
LGTM now!

File: FormalConjectures/Wikipedia/Jacobson.lean (hunk 3 above)
Comment (Paul-Lez) [reply FormalConjectures/Wikipedia/Jacobson.lean]: Oh nice!

File: FormalConjecturesForMathlib/RingTheory/Ideal/Basic.lean (hunk 4 above)
Comment (Paul-Lez) [reply FormalConjecturesForMathlib/RingTheory/Ideal/Basic.lean]: done
